US06288120B1
(3Bromomethyl-phenyl)-acetic acid methyl ester
A solution of m-tolyl-acetic acid methyl ester (11.41 g, 69.49 mmol), N-bromosuccinimide (12.59 g, 70.73 mmol), AIBN (100 mg) in CCl4 (200 mL) was heated at reflux for 16 h. The reaction was cooled to room temperature and aqueuos NaHCO3 (satd) was added. The aqueous solution was extracted with CH2Cl2 (2×) and the organic solution was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography (hexanes to 9:1 hexanes:EtOAc) provided the title compound as a clear and colorless liquid (11.99 g). 1H NMR (CDCl3 400 MHz) δ 7.27 (m, 4H), 4.47 (s, 2H), 3.69 (s, 3H), 3.62 (s, 2H).

reactant | m-tolyl-acetic acid methyl ester | 69.49 mmol, 11.41 g | COC(CC=1C=C(C=CC1)C)=O | C10H12O2
reactant | N-bromosuccinimide | 70.73 mmol, 12.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3Bromomethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)CBr)=O | C10H11BrO2
